US06759419B2
As in Example 6, 15 g (0.18 mol) of 2-pyrrolidinone and 18.65 mL (1 equivalent) of propargyl bromide were reacted, then distilled in vacuo (66˜71° C./0.1 mmHg) to obtain 11.94 g (58% yield) of 1-propargyl pyrrolidin-2-one.

reactant | 2-pyrrolidinone | 0.18 mol, 15 g | N1C(CCC1)=O | C4H7NO
reactant | propargyl bromide | 18.65 mL, 1 equivalent | C(C#C)Br | C3H3Br
product | 1-propargyl pyrrolidin-2-one | 11.94 g, 58% yield | C(C#C)N1C(CCC1)=O | C7H9NO
